US05350748
To a warm solution of 3-chloro-5-(phenylmethoxy)benzo[b]thiophene-2-carbonyl chloride (2.0 g, 6 mmol) [Connor D. T., et al., J. Med. Chem, 35, 935, (1992)] in 20 mL of toluene is added dropwise 10 mL of aqueous NH4OH. The resulting precipitate is collected by filtration washing with ethyl alcohol to provide 3-chloro-5-(phenylmethoxy)benzo[b]thiophene-2-carboxamide in 84% yield; mp=205.5°-206° C.

reactant | 3-chloro-5-(phenylmethoxy)benzo[b]thiophene-2-carbonyl chloride | 6 mmol, 2.0 g | ClC=1C2=C(SC1C(=O)Cl)C=CC(=C2)OCC2=CC=CC=C2 | C16H10Cl2O2S
reactant | NH4OH | 10 mL | [NH4+].[OH-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-5-(phenylmethoxy)benzo[b]thiophene-2-carboxamide | 84% yield | ClC=1C2=C(SC1C(=O)N)C=CC(=C2)OCC2=CC=CC=C2 | C16H12ClNO2S
